* Z:\mnt\design.r\spice\examples\7862.asc
XU1 N008 N007 N011 N010 P001 NC_01 N005 N001 N002 N006 0 N004 IN NC_02 IN 0 N009 0 N003 OUT LTC7862
V1 IN 0 pwl(0 0 20u 28 30m 28 35m 100)
M1 IN N005 N001 N001 Si7336ADP m=2
M2 N001 N006 0 0 Si7336ADP
L1 N001 OUT 6.8µ
C1 OUT 0 100µ
R2 OUT 0 2
R3 OUT N007 1Meg
R4 N007 0 24.3K
C2 N004 0 4.7µ
C3 0 N008 .1µ
C4 0 N009 .1µ
C5 0 N010 1µ
R5 P001 0 36.5K
C6 0 N011 6.8n
C7 N002 N001 .47µ
D1 N004 N002 1N5818
R1 N001 N003 2K
C8 OUT N003 2.2µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 36m startup
.lib LTC7862.sub
.backanno
.end
